US07947691B2
3-Hydroxy-1-(3-phenyl-allyl)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with trans-cinnamyl chloride and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.24 (s, 1H); 5.25 (s, 1H); 6.51-6.67 (m, 2H); 7.21 (dd, J=7 Hz, 1H); 7.28 (dd, J=8 Hz, 2H); 7.40 (d, J=7 Hz, 2H); 7.53 (dd, J=8 Hz, 1H); 7.61 (dd, J=8 Hz, 1H); 8.16 (d, J=8 Hz, 1H); 8.25 (d, J=8 Hz, 1H), 11.00 (br s, 1H); Ret. time=2.79 min., m/z=350.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | trans-cinnamyl chloride | C(\C=C\C1=CC=CC=C1)Cl | C9H9Cl
product | 3-Hydroxy-1-(3-phenyl-allyl)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC1=C2C=CC=C1)CC=CC1=CC=CC=C1)=O | C19H14N2O3S
